US07566724B2
To a suspension of (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid (390.4 mg) in methanol (15 ml), 1N aqueous sodium hydroxide solution (0.782 ml) was added, and the resulting mixture was stirred at room temperature for 5 minutes. The reaction solution was concentrated to dryness to obtain (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid sodium salt (388.8 mg). IR(KBr)cm−1: 3386, 2974, 1585, 1549, 1509, 1455, 1292, 1122, 968, 798, 780.

reactant | (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid | 390.4 mg | ClC1=C(C(=O)N[C@H](C(=O)O)C\C=C\C2=CC=C(C=C2)N(C2=NC=CC=N2)C(C)C)C(=CC=C1)Cl | C25H24Cl2N4O3
reactant | sodium hydroxide | 1N, 0.782 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | (S,E)-2-(2,6-dichlorobenzamido)-5-[4-(isopropyl-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid sodium salt | 388.8 mg | [Na+].ClC1=C(C(=O)N[C@H](C(=O)[O-])C\C=C\C2=CC=C(C=C2)N(C2=NC=CC=N2)C(C)C)C(=CC=C1)Cl | InChI=1S/C25H24Cl2N4O3.Na/c1-16(2)31(25-28-14-5-15-29-25)18-12-10-17(11-13-18)6-3-9-21(24(33)34)30-23(32)22-19(26)7-4-8-20(22)27;/h3-8,10-16,21H,9H2,1-2H3,(H,30,32)(H,33,34);/q;+1/p-1/b6-3+;/t21-;/m0./s1
